data/mechanism_extracts/GreenChem/10.1039_c9gc01152h.json
{"doi": "10.1039_c9gc01152h", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical halogenation/semi-pinacol rearrangement of allylic alcohols using MgBr2·6H2O or MgCl2 as halide source to form β-halocarbonyls with all-carbon quaternary centers", "mechanism_family": ["mediator_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of halide anion (Br- or Cl-) to molecular halogen (Br2 / Cl2), which then acts as the electrophilic halogen source; cathode evolves H2 from protons", "key_intermediates": [{"name": "dibromide radical anion / molecular bromine (Br2)", "smiles": "BrBr", "role": "reactive"}, {"name": "halonium ion / bromiranium ion on alkene", "smiles": null, "role": "transient"}, {"name": "tertiary carbocation after 1,2-aryl(alkyl) migration (semi-pinacol)", "smiles": null, "role": "reactive"}, {"name": "β-halocarbonyl product", "smiles": null, "role": "reactive"}], "electron_flow": "Halide anion is oxidized at the anode to molecular halogen (via Br2•- to Br2); the halogen forms a halonium ion with the allylic alcohol alkene, triggering a classic electrophilic semi-pinacol 1,2-migration of the aryl/alkyl group from the carbinol carbon to give a β-halocarbonyl, while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Inhibited the reaction, suggesting radical species involvement (halogen radical/Br2•-)"}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Inhibited the reaction, consistent with radical halogen intermediate"}, {"name": "non-symmetric migration substrate 1v (p-MeO-aryl vs p-CF3-aryl)", "smiles": null, "purpose": "intermediate_trap", "observation": "Selective migration of electron-rich p-MeO-aryl group gave 2v in 95% yield, identical to product from NBS-mediated reaction, supporting a cationic semi-pinacol migration"}, {"name": "NBS control", "smiles": "O=C1CCC(=O)N1Br", "purpose": "other", "observation": "NBS as electrophilic Br source gave the same product 2v, supporting electrophilic Br+ / cationic pathway"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "crossover", "other"], "evidence_strength": "medium", "notes": "Authors propose that anodically generated Br2 (via Br2•-) initiates an electrophilic semi-pinacol rearrangement; the high diastereoselectivity (dr > 20:1 for 2i, 2j) and preferential migration of electron-rich aryl groups support a cationic (rather than radical) migration step. Radical inhibition by BHT/TEMPO is attributed to interception of the halogen radical intermediate during anodic Br- oxidation, not a C-centered radical on substrate. MgBr2·6H2O is preferred over MgCl2 due to lower oxidation potential of Br-."}
